### PR TITLE
feat(Algebra/StalkIso): fill `BijectiveOnStalks.prod` with proper hypotheses

### PR DESCRIPTION
**Pull request by chrisflav**
## Summary

- Fills the `RingHom.BijectiveOnStalks.prod` sorry in `Proetale/Algebra/StalkIso.lean`.
- Adds the missing hypotheses `f.BijectiveOnStalks` and `g.BijectiveOnStalks` — without them the statement is false (e.g. `ℤ → ℤ × ℤ/2` is not bijective on stalks at `(2) × ⊤` even though `ℤ → ℤ` and `ℤ → ℤ/2` are individually bijective on stalks at the relevant primes).
- Adds two supporting API lemmas: `RingHom.BijectiveOnStalks.fst` and `RingHom.BijectiveOnStalks.snd`, stating that the two projections from a binary product ring are bijective on stalks.

The proof factors the local ring hom of `f.prod g` at a prime `p` of `S × T` through the local ring hom of `fst` (resp. `snd`). The classification `Ideal.ideal_prod_prime` decomposes `p` as either `q.prod ⊤` or `⊤.prod q`; in each case `S` (resp. `T`) is a localization of `S × T` away from `(1, 0)` (resp. `(0, 1)`) (Mathlib's `IsLocalization.away_fst` / `away_snd`), so `(S × T)_p ≅ S_q` (resp. `T_q`) by `IsLocalization.isLocalization_isLocalization_atPrime_isLocalization`. Bijectivity of the composite then transfers to bijectivity of the `f.prod g` factor via `Function.Bijective.of_comp_iff'`.

Also marks the proof block of `thm:finite-product-identifies-local-rings` `\leanok` in `blueprint/src/chapters/local-structure.tex` (the statement already had `\leanok` referencing the broken sorry).

## Test plan

- [x] `lake build` succeeds for the full project.
- [x] No callers in `Proetale/` referenced the previous (broken, hypothesis-free) signature — verified via `Grep` — so adding the hypotheses is a safe API correction.
- [x] `lake exe mk_all --git --check` passes.

🤖 Generated with [Claude Code](https://claude.com/claude-code)

### CODE REVIEW

File: Proetale/Algebra/StalkIso.lean [hunk 1]
```diff
@@ -306,9 +306,65 @@ lemma bijective_of_bijective {f : R →+* S} (hf : f.BijectiveOnStalks)
...
+    ext x
+    rw [RingHom.comp_apply, Localization.localRingHom_to_map]; rfl)
+
+/-- A binary product of ring homomorphisms that are bijective on stalks is bijective on stalks. -/
+@[stacks 096E "(2)"]
+lemma prod {T : Type*} [CommRing T] {f : R →+* S} {g : R →+* T}
+    (hf : f.BijectiveOnStalks) (hg : g.BijectiveOnStalks) :
+    RingHom.BijectiveOnStalks (f.prod g) := by
+  intro p hp
+  rcases (Ideal.ideal_prod_prime p).mp hp with ⟨q, hq, rfl⟩ | ⟨q, hq, rfl⟩
```
Comment (chrisflav) [inline Proetale/Algebra/StalkIso.lean]: This proof is bad. First show the same result for a finite product of rings using `RingHom.BijectiveOnStalks.of_span_unit_ideal`. Then deduce the case for the product of two ring maps.

File: Proetale/Algebra/StalkIso.lean [hunk 2]
```diff
@@ -306,9 +306,82 @@ lemma bijective_of_bijective {f : R →+* S} (hf : f.BijectiveOnStalks)
...
+  exact (hf i).comp e.toRingEquiv.bijectiveOnStalks
+
+/-- A binary product of ring homomorphisms that are bijective on stalks is bijective on stalks. -/
+@[stacks 096E "(2)"]
+lemma prod {T : Type*} [CommRing T] {f : R →+* S} {g : R →+* T}
+    (hf : f.BijectiveOnStalks) (hg : g.BijectiveOnStalks) :
+    (f.prod g).BijectiveOnStalks := by
+  refine of_span_unit_ideal {((1, 0) : S × T), ((0, 1) : S × T)} ?_ ?_
+  · rw [Ideal.eq_top_iff_one, show (1 : S × T) = (1, 0) + (0, 1) by ext <;> simp]
+    exact (Ideal.span _).add_mem
```
Comment (chrisflav) [inline Proetale/Algebra/StalkIso.lean]: Deduce this from the finite product case.

**Comment by chrisflav** [comment]
The last commit made the proof of the `prod` case worse and longer. Revert that part.

File: Proetale/Algebra/StalkIso.lean [hunk 3]
```diff
@@ -306,9 +311,69 @@ lemma bijective_of_bijective {f : R →+* S} (hf : f.BijectiveOnStalks)
...
+lemma fst (T : Type*) [CommRing T] : (RingHom.fst S T).BijectiveOnStalks := by
+  intro p hp
+  let _ : Algebra (S × T) S := (RingHom.fst S T).toAlgebra
+  have : IsLocalization.AtPrime (Localization.AtPrime p) (p.comap (algebraMap (S × T) S)) :=
+    IsLocalization.isLocalization_isLocalization_atPrime_isLocalization
+      (Submonoid.powers ((1, 0) : S × T)) (Localization.AtPrime p) p
+  exact IsLocalization.bijective (p.comap (RingHom.fst S T)).primeCompl _ (by
+    ext x
+    rw [RingHom.comp_apply, Localization.localRingHom_to_map]
+    rfl)
```
Comment (chrisflav) [inline Proetale/Algebra/StalkIso.lean]: Simplify the proof using the fact that `S` is a standard open immersion over `S × T`, same below.

File: blueprint/src/chapters/local-structure.tex [hunk 4]
```diff
@@ -429,14 +429,17 @@ \section{Preliminaries}
...
   The map \(A \to \prod_{i = 1}^{n} A_i \) identifies local rings, if \(A \to A_i\) identifies
   local rings for all \(i\).
 \end{lemma}
 
 \begin{proof}
-  Omitted.
+  \leanok
+  The idempotents \(e_i \in \prod_j A_j\) supported at index \(i\) span the unit ideal, and the
+  localization at \(e_i\) is \(A_i\). Hence \(A \to \prod_j A_j\) identifies local rings if each
+  \(A \to A_i\) does.
```
Comment (chrisflav) [inline blueprint/src/chapters/local-structure.tex]: Revert this change.

File: Proetale/Algebra/StalkIso.lean [hunk 5]
```diff
@@ -306,9 +311,57 @@ lemma bijective_of_bijective {f : R →+* S} (hf : f.BijectiveOnStalks)
       exact ⟨hr₁m, hqm' ▸ hb⟩)
   exact ⟨hinj, hsurj⟩
 
-lemma prod {T : Type*} [CommRing T] {f : R →+* S} {g : R →+* T} :
-    RingHom.BijectiveOnStalks (f.prod g) :=
-  sorry
+/-- The first projection `S × T →+* S` is bijective on stalks. -/
+lemma fst (T : Type*) [CommRing T] : (RingHom.fst S T).BijectiveOnStalks := by
+  let _ : Algebra (S × T) S := (RingHom.fst S T).toAlgebra
+  haveI : Algebra.IsStandardOpenImmersion (S × T) S := ⟨(1, 0), inferInstance⟩
```
Comment (chrisflav) [inline Proetale/Algebra/StalkIso.lean]:
```suggestion
  have : Algebra.IsStandardOpenImmersion (S × T) S := ⟨(1, 0), inferInstance⟩
```

File: Proetale/Algebra/StalkIso.lean [hunk 6]
```diff
@@ -306,9 +311,57 @@ lemma bijective_of_bijective {f : R →+* S} (hf : f.BijectiveOnStalks)
...
+  exact of_isStandardOpenImmersion (S × T) S
+
+/-- The second projection `S × T →+* T` is bijective on stalks. -/
+lemma snd (T : Type*) [CommRing T] : (RingHom.snd S T).BijectiveOnStalks := by
+  let _ : Algebra (S × T) T := (RingHom.snd S T).toAlgebra
+  haveI : Algebra.IsStandardOpenImmersion (S × T) T := ⟨(0, 1), inferInstance⟩
```
Comment (chrisflav) [inline Proetale/Algebra/StalkIso.lean]:
```suggestion
  have : Algebra.IsStandardOpenImmersion (S × T) T := ⟨(0, 1), inferInstance⟩
```
